US05064833
2-(2-methylphenylamino)-4-chloroquinazoline (2 g, 0.0065 mol) and methylamine in ethanol (33%, 30 ml) were placed in a pressure vessel and heated for 4 hours at 140°. After cooling, the reaction mixture was evaporated to dryness. The residue afforded crystals of 2-(2-methylphenylamino)-4-methylaminoquinazoline hydrochloride (0.29 g, 8.9%) from ethanolic hydrogen chloride, m.p. 275°-279°.

reactant | 2-(2-methylphenylamino)-4-chloroquinazoline | 0.0065 mol, 2 g | CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(=N1)Cl | C15H12ClN3
reactant | methylamine | CN | CH5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(2-methylphenylamino)-4-methylaminoquinazoline hydrochloride | 0.29 g, 8.9% | Cl.CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(=N1)NC | InChI=1S/C16H16N4.ClH/c1-11-7-3-5-9-13(11)18-16-19-14-10-6-4-8-12(14)15(17-2)20-16;/h3-10H,1-2H3,(H2,17,18,19,20);1H
